US05602145
a) 2-ethylcarbonylmethoxy-7-nitro-1,2,3,4-tetrahydroisoquinolin-1-one
To a solution consisting of 7-nitro-1,2,3,4-tetrahydroisoquinolin-1-one (3.0 g, 15.6 mmol), methyl acrylate (15 mL, 156 mmol) and methanol (50 m L) was added sodium methoxide (840 mg, 15.6 mmol). The resulting solution was refluxed overnight. The reaction solution was concentrated and the resulting residue was introduced unto a silica gel column equilibrated with ethyl acetate/Hexane (3:7). Elution was done with the same solvent system. Desired fractions were concentrated to give title compound (2.6 g, 69% yield).

reactant | 7-nitro-1,2,3,4-tetrahydroisoquinolin-1-one | 15.6 mmol, 3.0 g | [N+](=O)([O-])C1=CC=C2CCNC(C2=C1)=O | C9H8N2O3
reactant | methyl acrylate | 156 mmol, 15 mL | C(C=C)(=O)OC | C4H6O2
reactant | sodium methoxide | 15.6 mmol, 840 mg | C[O-].[Na+]
reactant | methanol | CO | CH4O
product | 2-ethylcarbonylmethoxy-7-nitro-1,2,3,4-tetrahydroisoquinolin-1-one | 2.6 g, 69% yield | C(C)C(=O)CON1C(C2=CC(=CC=C2CC1)[N+](=O)[O-])=O | C13H14N2O5
